US07645789B2
To a solution of 1-(benzofuran-6-yl)cyclopropanecarboxylic acid (370 mg, 1.8 mmol) in MeOH (50 mL) was added PtO2 (75 mg, 20%) at room temperature. The reaction mixture was stirred under hydrogen atmosphere (1 atm) at 20° C. for 3 d. The reaction mixture was filtered and the solvent was evaporated in vacuo to afford the crude product, which was purified by prepared HPLC to give 1-(2,3-dihydrobenzofuran-6-yl)cyclopropanecarboxylic acid (155 mg, 42%). 1H NMR (300 MHz, MeOD) δ 7.13 (d, J=7.5 Hz, 1H), 6.83 (d, J=7.8 Hz, 1H), 6.74 (s, 1H), 4.55 (t, J=8.7 Hz, 2H), 3.18 (t, J=8.7 Hz, 2H), 1.56-1.53 (m, 2H), 1.19-1.15 (m, 2H).

reactant | 1-(benzofuran-6-yl)cyclopropanecarboxylic acid | 1.8 mmol, 370 mg | O1C=CC2=C1C=C(C=C2)C2(CC2)C(=O)O | C12H10O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | PtO2 | 75 mg | O=[Pt]=O
product | 1-(2,3-dihydrobenzofuran-6-yl)cyclopropanecarboxylic acid | 155 mg, 42% | O1CCC2=C1C=C(C=C2)C2(CC2)C(=O)O | C12H12O3
